US08536185B2
Step C: Preparation of 2-phenyl-5-(5-phenyl-1H-imidazol-2-yl)pyrimidine
The title compound was prepared by the method described in Example 1, Step D, except that 5-(1-benzyl-5-phenyl-1H-imidazol-2-yl)-2-phenylpyrimidine (this Example, Step B) was used instead of 5-(1-benzyl-2-phenyl-1H-imidazol-5-yl)-2-phenylpyrimidine. The title compound was isolated as a white solid (0.044 g, 62% yield); Rf 0.26 with 95:5 v/v dichloromethane-methanol; melting point 238° C.; 1H-NMR (400 MHz; DMSO-d6) δ 9.40 (s, 2H), 8.43 (m, 2H), 7.99-7.84 (m, 2H), 7.58-7.20 (m, 8H); MS (ESI+) m/z 299.1 (M+1); H-PGDS FPBA IC50: 2.8 μM.

reactant | 5-(1-benzyl-5-phenyl-1H-imidazol-2-yl)-2-phenylpyrimidine | C(C1=CC=CC=C1)N1C(=NC=C1C1=CC=CC=C1)C=1C=NC(=NC1)C1=CC=CC=C1 | C26H20N4
reactant | 5-(1-benzyl-2-phenyl-1H-imidazol-5-yl)-2-phenylpyrimidine | C(C1=CC=CC=C1)N1C(=NC=C1C=1C=NC(=NC1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H20N4
product | 2-phenyl-5-(5-phenyl-1H-imidazol-2-yl)pyrimidine | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1NC(=CN1)C1=CC=CC=C1 | C19H14N4
